US05371096
A solution of 10 g (0.0448 mole) of 4-hydroxy-3-(3-hydroxyprop-1-yl)-2-(3-pyridyl)tetrahydrofuran hydrochloride, 7.68 g (0.048 mole) of t-butyldimethylsilyl chloride and 6.86 g (0.0977 mole) of imidazole in 105.8 ml of dimethylformamide is stirred at room temperature for 15 h and evaporated. The residue is triturated with ethyl acetate and washed with water and brine, dried (MgSO4) and evaporated. The residue is purified by flash chromatography using methylene chloride-ethyl acetate-methanol (20:4:1) to give 3-(3-t-butyldimethylsilyloxyprop-1-yl)-4-hydroxy-2-(3-pyridyl)tetrahydrofuran as an oil.

reactant | 4-hydroxy-3-(3-hydroxyprop-1-yl)-2-(3-pyridyl)tetrahydrofuran hydrochloride | 0.0448 mole, 10 g | Cl.OC1C(C(OC1)C=1C=NC=CC1)CCCO
reactant | t-butyldimethylsilyl chloride | 0.048 mole, 7.68 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 0.0977 mole, 6.86 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 105.8 ml | CN(C=O)C | C3H7NO
product | 3-(3-t-butyldimethylsilyloxyprop-1-yl)-4-hydroxy-2-(3-pyridyl)tetrahydrofuran | [Si](C)(C)(C(C)(C)C)OCCCC1C(OCC1O)C=1C=NC=CC1 | C18H31NO3Si
